US07786122B2
(2R)-2-[N-(4-Chlorobenzenesulfonyl)-N-(4-methoxybenzyl)amino]-4-methylpentanoic acid amide (Example 1)
(2R)-2-[N-(4-Methoxybenzyl)amino]-4-methylpentanoic acid amide (3.57 g, 14.3 mmol) was dissolved in CH2Cl2 (100 mL) and treated with Et3N (4.2 mL, 29 mmol) and 4-chlorobenzenesulfonyl chloride (3.6 g, 17 mmol) at rt for 18 h. The solvents were removed and the residue was taken into EtOAc (500 mL). The organic solution was washed with H2O, brine, dried over MgSO4, and concentrated. The resulting material was then further purified by flash chromatography (SiO2, 1% MeOH/CH2Cl2) to afford the title compound (2.4 g) as a slightly colored solid in 40% yield. MS (ESI), (M−H)− 422.9; 1H NMR (CDCl3) δ 7.63 (d, 2H, J=7.0), 7.42 (d, 2H, J=7.0), 7.25 (d, 2H, J=8.0), 6.79 (d, 2H, J=8.0), 6.25 (br s, 1H), 5.35 (br s, 1H), 4.36 (dd, 2H, J=5.0, 15), 4.26 (t, 1H, J=7.2), 3.78 (s, 3H), 1.83 (m, 1H), 1.18-1.34 (m, 2H), 0.75 (d, 3H, J=7.0), 0.67 (d, 3H, J=7.0); IR (KBr) 3480, 2959, 1693, 1674, 1514, 1333, 1158 cm−1.

reactant | (2R)-2-[N-(4-Methoxybenzyl)amino]-4-methylpentanoic acid amide | 14.3 mmol, 3.57 g | COC1=CC=C(CN[C@@H](C(=O)N)CC(C)C)C=C1 | C14H22N2O2
reactant | Et3N | 29 mmol, 4.2 mL | CCN(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 17 mmol, 3.6 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (2R)-2-[N-(4-Chlorobenzenesulfonyl)-N-(4-methoxybenzyl)amino]-4-methylpentanoic acid amide | 2.4 g, 40% yield | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)OC)[C@@H](C(=O)N)CC(C)C | C20H25ClN2O4S
